US03963730
A solution of 6.3 g. of acetonine in a mixed solvent comprising 30 g. of acetone and 30 g. of methanol was added with 1.6 g. of methanesulfonic acid. The mixture was maintained at room temperature for 24 hours in a sealed equipment to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 1 to obtain triacetonamine in a yield of 95.3%.

reactant | acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | acetone | CC(=O)C | C3H6O
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | methanol | CO | CH4O
product | triacetonamine | yield of 95.3% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
